US04245108
1.10 g (5 mmols) of 3-phenoxybenzaldehyde, 0.83 g (7.5 mmols) of thiophenol, 1.3 g (5.1 mmols) of bromoform, 1.7 g (26 mmols) of potassium hydroxide (having a purity higher than 85%) and 0.424 g (10 mmols) of lithium chloride were added to a mixture of 5 ml of dioxane and 5 g of ice crump, and the resulting mixture was stirred vigorously for 5 hours at 0° C. and then 19 hours at room temperature. The reaction mixture was then diluted with water, rendered acidic with hydrochloric acid and extracted with methylene chloride. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated to remove the solvent to obtain a crude product of 2-phenylthio-2-(3-phenoxyphenyl)acetic acid in a quantative yield. The resulting crude product was purified by column chromatography eluting with hexane-diethyl ether (10:1 by volume) to obtain 1.54 g (92% yield) of the above product in a substantially pure form.

reactant | 3-phenoxybenzaldehyde | 5 mmols, 1.10 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | thiophenol | 7.5 mmols, 0.83 g | C1(=CC=CC=C1)S | C6H6S
reactant | bromoform | 5.1 mmols, 1.3 g | C(Br)(Br)Br | CHBr3
reactant | potassium hydroxide | 26 mmols, 1.7 g | [OH-].[K+]
reactant | lithium chloride | 10 mmols, 0.424 g | [Cl-].[Li+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-phenylthio-2-(3-phenoxyphenyl)acetic acid | C1(=CC=CC=C1)SC(C(=O)O)C1=CC(=CC=C1)OC1=CC=CC=C1 | C20H16O3S
